US08232312B2
9-(2-phenylsulphonyl-ethyl)-9H-carbazole
1.8 g 9H-carbazole and 9.8 g phenylvinylsulphone are suspended in 3 ml of tetrahydrofuran, cooled to 0° C., combined with 60 μl benzyltrimethylammonium hydroxide (40% solution in water) and stirred for 20 minutes. Then the mixture is heated to 115° C. for 7 hours. Then it is divided between ethyl acetate and 1 N hydrochloric acid, the organic phase is dried on magnesium sulphate and the solvent is eliminated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 2:1).

reactant | 9H-carbazole | 1.8 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | phenylvinylsulphone | 9.8 g | C1(=CC=CC=C1)S(=O)(=O)C=C | C8H8O2S
reactant | benzyltrimethylammonium hydroxide | 60 μl | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-(2-phenylsulphonyl-ethyl)-9H-carbazole | C1(=CC=CC=C1)S(=O)(=O)CCN1C2=CC=CC=C2C=2C=CC=CC12 | C20H17NO2S
